US05110831
1-(Cyclopropyl)-3-dimethylaminoprop-2-en-1-one
To a suspension of 5.94 g (0.11 mol) of sodium methoxide in 200 mL of dry THF was added 8.89 mL (0.11 mol) of ethyl formate, followed by methyl cyclopropyl ketone (9.91 mL, 0.10 mol, [765-43-5]). The reaction mixture rapidly turned yellow and was stirred at 25° for 4 hours. The reaction mixture was then concentrated and the residue was dissolved in 100 mL of methanol. To this was added a solution of 8.97 g (0.11 mol) of dimethylamine hydrochloride in 50 mL of methanol. The mixture was stirred for 1 hour at 25° , then the reaction mixture was concentrated. The residue was suspended in 100 mL of dry benzene and then concentrated. The residue was then triturated with 100 mL of dry benzene, filtered, and the filter cake was washed with additional dry benzene. The benzene solution was dried and concentrated to yield a yellow oil that crystallized upon cooling (11.97 g, 86%). mp 55°. NMR (CDCl3): 7.58 (d, 1 H); 5.21 (d, 1 H); 3.20-2.60 (br d, 6 H); 1.80 (m, 1 H); 1.00 (m, 2 H); 0.77 (m, 2 H). Mass spec 140 (M+H+).

reactant | sodium methoxide | 0.11 mol, 5.94 g | C[O-].[Na+]
reactant | ethyl formate | 0.11 mol, 8.89 mL | C(=O)OCC | C3H6O2
reactant | methyl cyclopropyl ketone | 0.10 mol, 9.91 mL | C1(CC1)C(=O)C | C5H8O
reactant | dimethylamine hydrochloride | 0.11 mol, 8.97 g | Cl.CNC
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
product | 1-(Cyclopropyl)-3-dimethylaminoprop-2-en-1-one | C1(CC1)C(C=CN(C)C)=O | C8H13NO
